US09078909B2
A mixture of (4-tert-butoxycarbonylaminopiperidin-1-yl)acetic acid (0.50 g; 1.94 mmol), phenylamine (0.18 mL; 1.94 mmol), the coupling reagent TBTU (0.62 g; 1.94 mmol) and DIPEA (0.35 mL; 2.0 mmol) in DMF (5 mL) is stirred at r.t. over night. The solvent is evaporated and the residue is purified by silica gel column chromatography (DCM:MeOH=40:1) to give tert-butyl N-[1-(2-anilino-2-oxo-ethyl)-4-piperidyl]carbamate.

reactant | (4-tert-butoxycarbonylaminopiperidin-1-yl)acetic acid | 1.94 mmol, 0.50 g | C(C)(C)(C)OC(=O)NC1CCN(CC1)CC(=O)O | C12H22N2O4
reactant | phenylamine | 1.94 mmol, 0.18 mL | C1(=CC=CC=C1)N | C6H7N
reactant | TBTU | 1.94 mmol, 0.62 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 2.0 mmol, 0.35 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl N-[1-(2-anilino-2-oxo-ethyl)-4-piperidyl]carbamate | N(C1=CC=CC=C1)C(CN1CCC(CC1)NC(OC(C)(C)C)=O)=O | C18H27N3O3
